US05688792
Step 1: 4-(2-fluoro-4-nitrophenyl)thiomorpholine
The 3,4-difluoronitrobenzene (2.09 mL, 18.857 mmol) was dissolved in dry CH3CN (50 mL) and then treated dropwise with N,N-diisopropylethyl amine (8.212 mL, 47.143 mmol). The resultant yellow mixture was next treated with thiomorpholine (4.74 mL, 47.143 mmol). The reaction was heated to roflux (85° C.) for 16 hours and then it was allowed to cool to ambient temperature over 3 hours, stirring under N2. At this point, the reaction was determined to be complete by TLC (15% EtOAc/hexane, UV short wave). The reaction mixture was first concentrated under reduced prossure and then adsorbed onto silica gel (50 g). The material was chromatographed on more silica gel (175 g, packed with hexane), eluting with 1 L each of 5%, 10% and 15% EtOAc/hexane to give 4.6 g (100%) of the title compound as an orange, crystalline solid with a melting point of 59.5°-60.5° C. and a HRMS (M+) calculated for C10H11N2O2FS 242.0522, found 242.0525.

reactant | 3,4-difluoronitrobenzene | 18.857 mmol, 2.09 mL | FC=1C=C(C=CC1F)[N+](=O)[O-] | C6H3F2NO2
reactant | N,N-diisopropylethyl amine | 47.143 mmol, 8.212 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | thiomorpholine | 47.143 mmol, 4.74 mL | N1CCSCC1 | C4H9NS
reactant | EtOAc hexane | CCOC(=O)C.CCCCCC
solvent | CH3CN | 50 mL | CC#N | C2H3N
product | 4-(2-fluoro-4-nitrophenyl)thiomorpholine | 4.6 g, 100% | FC1=C(C=CC(=C1)[N+](=O)[O-])N1CCSCC1 | C10H11FN2O2S
